US05147892
Methyl 2-(phenylcarbonylmethyl)-phenyl-β-methoxyacrylate (compound 1, Table 2)
A solution of 5 g (17.5 mmol) of methyl α-(2-bromomethylphenyl)-β-methoxyacrylate and 2.5 g (17.8 mmol) of benzoyl chloride in 50 ml of dimethoxyethane is added dropwise to 2.3 g (0.035 mol) of zinc powder and 600 mg (0.9 mmol) of Pd(Ph3P)2Cl2 under nitrogen and the mixture is then heated at 50° C. for 30 minutes. Water is added, the mixture is extracted with ethyl acetate and the organic phase is dried and evaporated down. The residue is chromatographed over silica gel using hexane/ethyl acetate. 1.6 g of compound No. 1 (Table 1) are obtained as a pale yellow solid of melting point 97°-99° C. Yield: 29%.

reactant | methyl α-(2-bromomethylphenyl)-β-methoxyacrylate | 17.5 mmol, 5 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | benzoyl chloride | 17.8 mmol, 2.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Water | O | H2O
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
catalyst | zinc | 0.035 mol, 2.3 g | [Zn] | Zn
catalyst | Pd(Ph3P)2Cl2 | 0.9 mmol, 600 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-(phenylcarbonylmethyl)-phenyl-β-methoxyacrylate | Yield: 29% | C1(=CC=CC=C1)C(=O)CC1=C(C=CC=C1)C(C(=O)OC)=COC | C19H18O4
